US05366981
1-ethoxycarbonyl pipecolic acid
15.0 g (0.116 moles) of (±) pipecolic acid were dissolved in 180 ml of water. 25.5 g (0.185 moles) of potassium carbonate were added and the solution cooled to +5° C. 19.83 g (0.183 moles) of ethyl chloroformate were added dropwise under mechanical stirring, maintaining the temperature below +10° C. After 4 hours the reaction mixture was extracted with methylene chloride; the aqueous layer were treated with conc. HCl to acidic pH, extracted with methylene chloride (400 ml) which was dried over Na2SO4 and the solvent evaporated to dryness to afford 23.8 g of the crude product. Crystallization from isopropyl ether/n-hexane gave 21.7 g (93% of the theoretical) of the title compound.

reactant | (±) pipecolic acid | 0.116 moles, 15.0 g | N1C(C(=O)O)CCCC1 | C6H11NO2
reactant | potassium carbonate | 0.185 moles, 25.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 0.183 moles, 19.83 g | ClC(=O)OCC | C3H5ClO2
solvent | water | 180 ml | O | H2O
product | 1-ethoxycarbonyl pipecolic acid | C(C)OC(=O)N1C(C(=O)O)CCCC1 | C9H15NO4
